US07915404B2
2-(2-Nitro-ethyl)-[1,3]dioxolane
In a flask fitted with a Dean-Stark trap and reflux condenser, a solution of 3-nitro-propionaldehyde (138 g, 1.34 mol) in toluene (1 L) was treated with ethylene glycol (83 g, 1.34 mol) and p-toluenesulfonic acid monohydrate (5.0 g, 26 mmol). The mixture was heated at reflux, open to air, for 4 h, and then cooled to rt. A black residue was removed by paper filtration. The filtrate was washed with satd. aq. NaHCO3 (250 mL) and brine (3×100 mL). Charcoal and MgSO4 were added, and the resulting suspension was stirred for 1 h. Filtration and concentration of the filtrate gave the title compound, which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): 5.03 (t, J=3.6, 1H), 4.50 (t, J=6.8, 2H), 4.05-3.90 (m, 2H), 3.90-3.80 (m, 2H), 2.44 (td, J=6.8, 3.6, 2H).

reactant | 3-nitro-propionaldehyde | 1.34 mol, 138 g | [N+](=O)([O-])CCC=O | C3H5NO3
reactant | ethylene glycol | 1.34 mol, 83 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 26 mmol, 5.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Nitro-ethyl)-[1,3]dioxolane | [N+](=O)([O-])CCC1OCCO1 | C5H9NO4
